US08802690B2
A mixture of methanol (800 mL), potassium hydroxide (44 g, 0.95 mol) and dimethyl pyridine-2,4-dicarboxylate (ChemPacific) (156 g, 0.79 mol) was refluxed for 0.5 hours and then evaporated in vacuo to afford 4-(methoxycarbonyl)picolinic acid (144 g) as a yellow solid.

reactant | potassium hydroxide | 0.95 mol, 44 g | [OH-].[K+]
reactant | dimethyl pyridine-2,4-dicarboxylate | 0.79 mol, 156 g | N1=C(C=C(C=C1)C(=O)OC)C(=O)OC | C9H9NO4
solvent | methanol | 800 mL | CO | CH4O
product | 4-(methoxycarbonyl)picolinic acid | 144 g | COC(=O)C1=CC(=NC=C1)C(=O)O | C8H7NO4
